US08067445B2
Step 1: [2′-(3-Benzyl-1-ethyl-ureidomethyl)-5-chloro-5′-methoxy-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 95, Step 1, using the following starting materials: (5-chloro-2′-ethylaminomethyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester and benzyl isocyanate.

reactant | (5-chloro-2′-ethylaminomethyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)CNCC)=O | C19H22ClNO3
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-5-chloro-5′-methoxy-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C27H29ClN2O4
